US05552398
eq-Quinolizidin-2-ylmethyl-1-n-propylindole-3-carboxylate (E17 )
eq-2-Hydroxymethylquinolizidine (N. J. Leonard et al, J. Org. Chem,1957, 22, 1445) was reacted with the acid chloride of 1-n-propylindole-3-carboxylic acid using the method of Example 1. The product was chromatographed on silica gel eluting with ethyl acetate. The resulting yellow oil was crystallised from n-pentane to afford the title compound (E17) as a white solid mp 75°-76° C.

reactant | 2-Hydroxymethylquinolizidine | OCC1CC2CCCCN2CC1 | C10H19NO
reactant | 1-n-propylindole-3-carboxylic acid | C(CC)N1C=C(C2=CC=CC=C12)C(=O)O | C12H13NO2
product | Quinolizidin-2-ylmethyl-1-n-propylindole-3-carboxylate | C1C(CCN2CCCCC12)COC(=O)C1=CN(C2=CC=CC=C12)CCC | C22H30N2O2
